US04931457
4-(1-Naphthyloxy)-3-nitropyridine
To 50 ml of DMF was added 1-naphthol (11.25 g) and to this solution was added K2CO3 (20 g) portionwise. After stirring for 10 minutes at room temperature, 4-chloro-3-nitropyridine (11.2 g) in 60 ml of DMF was added dropwise. The reaction mixture was stirred for 4 hours at room temperature. The mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with water and dried (sat. NaCl, anhy. MgSO4).

reactant | 1-naphthol | 11.25 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | K2CO3 | 20 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-3-nitropyridine | 11.2 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | water | O | H2O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(1-Naphthyloxy)-3-nitropyridine | C1(=CC=CC2=CC=CC=C12)OC1=C(C=NC=C1)[N+](=O)[O-] | C15H10N2O3
